US06579883B1
D) 3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
A solution of 150 mg (0.73 mmol) of 3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 50 ml of THF is mixed with 607 mg (1.5 mmol) of Lawesson's reagent. After 1 hour of stirring at room temperature, the batch is refluxed for 2 hours. Then, the reaction mixture is concentrated by evaporation and the residue is purified by column chromatography on silica gel (eluant: hexane-ethyl acetate): 150 mg of product.

reactant | 3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.73 mmol, 150 mg | FC12C(NC=3C=CC=CC3C1CCC2)=O | C12H12FNO
reactant | Lawesson's reagent | 1.5 mmol, 607 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3a-Fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | FC12C(NC=3C=CC=CC3C1CCC2)=S | C12H12FNS
